US05098805
Synthesis of 4-heptyloxycarbonyloxypyridine (exemplified compound I-24)
100 ml of chloroform and 7.3 ml (0.052 mol) of triethylamine were added to 4.5 g (0.040 mol) of 4-hydroxypyridine monohydrate to dissolve it, and the solution was stirred at 25° C. 8.9 g (0.050 mol) of heptyl chlorocarbonate was added to the solution dropwise. After stirring for 30 min, cold aqueous hydrochloric acid was added thereto. After separation the resulting chloroform layer was washed twice with cold water and then dried over Glauber's salt. After filtering out the Glauber's salt, the chloroform was removed by distillation, and the obtained product was purified by column chromatography, followed by crystallization from ethanol, thereby obtaining 7.5 g of exemplified compound I-24 having a melting point of 44° to 50° C. in a yield of 83%.

reactant | triethylamine | 0.052 mol, 7.3 ml | C(C)N(CC)CC | C6H15N
reactant | 4-hydroxypyridine monohydrate | 0.040 mol, 4.5 g | O.OC1=CC=NC=C1
reactant | heptyl chlorocarbonate | 0.050 mol, 8.9 g | C(OCCCCCCC)(=O)Cl | C8H15ClO2
reactant | hydrochloric acid | Cl | ClH
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-heptyloxycarbonyloxypyridine | 7.5 g, yield of 83% | C(CCCCCC)OC(=O)OC1=CC=NC=C1 | C13H19NO3
